US09216975B2
Preparation of 2-isopropoxy-4-(trifluoromethyl)benzonitrile 26a (Scheme 13)
The 2-fluoro-4-(trifluoromethyl)-benzonitrile (0.5 mL, 3.59 mmol) was added in small portion to a mixture of NaH 60% (4 mol eq) in isopropanol (10 mL). The reaction mixture was heated at 50° C. overnight. The solvent was distilled and water was added to the residue. The aqueous solution was extracted with EtOAc (3×25 mL) and the organic phases were evaporated at reduced pressure to give e as a white solid (0.84 g, quantitative yield). 1HNMR (DMSO, 200 MHz) δ 1.23 (s, 3H), 1.34 (s, 3H), 4.99 (m, 1H), 7.44 (m, 2H), 8.01 (d, 1H, J=8).

reactant | 2-fluoro-4-(trifluoromethyl)-benzonitrile | 3.59 mmol, 0.5 mL | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | NaH | 4 mol | [H-].[Na+]
reactant | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-isopropoxy-4-(trifluoromethyl)benzonitrile | 0.84 g, quantitative yield | C(C)(C)OC1=C(C#N)C=CC(=C1)C(F)(F)F | C11H10F3NO
